US05739401
In the same manner as in Example 1 except that a mixture of formic acid, ammonium formate and acetophenone was heated with stirring at 160° C. for 6 hours in place of the concurrent addition of acetophenone and formic acid to ammonium formate for 3 hours and keeping the mass after the addition stirred for 3 hours, the reaction and post treatment were carried out to obtain 112 g of crude N-formyl-1-phenylethylamine; the purity: 82.7%

reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | formic acid | C(=O)O | CH2O2
product | N-formyl-1-phenylethylamine | 112 g | C(=O)NC(C)C1=CC=CC=C1 | C9H11NO
